US07557215B2
3-Hydroxymethyl-piperidin-1-yl-acetonitrile (S2)
The method follows that of S1 using 3-piperidinemethanol (4.79 g, 41.59 mmol), BrCH2CN (1.99 g, 16.64 mmol) and dry THF (25 mL). The title-compound was yielded as a straw-coloured oil (2.35 g, 92%) after flash chromatography using CH2Cl2/CH3OH (9:1) as eluent. dH (250 MHz; CDCl3); 1.05 (m, 1H, CHCH2OH), 1.5-1.9 (m, 5H, OH, CH2CH2CH2 and CH2CH2CH), 2.15 (t, 1H, J=10 Hz, 1×NCH2CH), 2.35 (3×d, 1H, J=4 Hz and J=10 Hz, 1×NCH2CH2), 2.7 (m, 1H, 1×NCH2CH2), 2.85 (2×d, 1H, J=4 Hz and J=12 Hz, 1×NCH2CH), 3.52 (s, 2H, NCH2CN) and 3.45-3.65 (m, 2H, CHCH2OH); dC (62.9 MHz; CDCl3); 24.43, 26.14, 38.55, 46.75, 52.83, 55.73, 65.88 and 114.74 (CN); FAB MS, m/z(M+H)+ 155.

reactant | 3-piperidinemethanol | 41.59 mmol, 4.79 g | N1CC(CCC1)CO | C6H13NO
reactant | BrCH2CN | 16.64 mmol, 1.99 g | BrCC#N | C2H2BrN
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-Hydroxymethyl-piperidin-1-yl-acetonitrile | 2.35 g, 92% | OCC1CN(CCC1)CC#N | C8H14N2O
